US07645786B2
2-Fluoro-4-(hydroxymethyl)benzonitrile
To a solution of 2-fluoro-5-formylbenzonitrile (350 mg, 2.4 mmol) in methanol (11 ml), at 0° C., was added sodium borohydride (107 mg, 2.8 mmol). The reaction mixture was allowed to warm to room temperature over 1 h, before addition of hydrochloric acid (1M, 30 ml). The mixture was extracted with ethyl acetate and the combined extracts were washed with brine, dried (MgSO4) and concentrated in vacuo to give the title compound (354 mg).

reactant | 2-fluoro-5-formylbenzonitrile | 2.4 mmol, 350 mg | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | sodium borohydride | 2.8 mmol, 107 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1M, 30 ml | Cl | ClH
reactant | methanol | 11 ml | CO | CH4O
product | 2-Fluoro-4-(hydroxymethyl)benzonitrile | 354 mg | FC1=C(C#N)C=CC(=C1)CO | C8H6FNO
